US04218448
A mixture of 0.7 g. of 7-chloro-2,3-dihydro-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1H,5H-benzo[ij]quinolizin-5-one, 150 ml. of glacial acetic acid, 5 g. of sodium acetate trihydrate, and 0.5 g. of 10% palladium on charcoal is hydrogenated in a Parr shaker apparatus for 4 hours at an initial pressure of 3 atm. The catalyst is removed by filtration, solvent is removed by evaporation, and the residue is triturated with water. The insoluble material is filtered off, dried and recrystallized to give 2,3-dihydro-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1H,5H-benzo[ij]quinolizin-5-one, m.p. 295°-296°.

reactant | 7-chloro-2,3-dihydro-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1H,5H-benzo[ij]quinolizin-5-one | ClC=1C2=C3C(CCCN3C(C1)=O)=CC(=C2)C(C(F)(F)F)(C(F)(F)F)O | C15H10ClF6NO2
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
catalyst | palladium on charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-1H,5H-benzo[ij]quinolizin-5-one | FC(C(C(F)(F)F)(O)C1=CC=2C=CC(N3CCCC(C23)=C1)=O)(F)F | C15H11F6NO2
